US07875732B2
Preparation of N-methoxymethyl-N-methylpyrrolidinium hexafluoroarsenate
In 50.0 g of water was dissolved 25.1 g of N-methoxymethyl-N-methylpyrrolidinium chloride and thereto was added 30.0 g of lithium hexafluoroarsenate (reagent, Aldrich Corp.). The mixture was reacted at room temperature for 1 hour, and 79.2 g of dichloromethane was added to the mixture for extraction. The extract was washed with 100 ml of water 15 times, thereafter concentrated and dried in a vacuum, giving 32.4 g of the desired product in the form of a white solid.

reactant | N-methoxymethyl-N-methylpyrrolidinium chloride | 25.1 g | [Cl-].COC[N+]1(CCCC1)C
reactant | lithium hexafluoroarsenate | 30.0 g | F[As-](F)(F)(F)(F)F.[Li+]
reactant | dichloromethane | 79.2 g | ClCCl | CH2Cl2
solvent | water | 50.0 g | O | H2O
product | N-methoxymethyl-N-methylpyrrolidinium hexafluoroarsenate | 32.4 g | F[As-](F)(F)(F)(F)F.COC[N+]1(CCCC1)C | InChI=1S/C7H16NO.AsF6/c1-8(7-9-2)5-3-4-6-8;2-1(3,4,5,6)7/h3-7H2,1-2H3;/q+1;-1
